US07087594B2
In 12 mL of N,N-dimethylformamide was dissolved 1.20 g of 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene, and 0.82 g of 3-pyrrolidinol and 1.30 g of potassium carbonate were added to the solution, after which the resulting mixture was stirred at 85° C. for 2.5 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; chloroform:methanol=20:1 to 10:1) to obtain 0.78 g of 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinol as a colorless oil.

reactant | 5-[2-(3-chloropropoxy)ethyl]-1-benzothiophene | 1.20 g | ClCCCOCCC=1C=CC2=C(C=CS2)C1 | C13H15ClOS
reactant | 3-pyrrolidinol | 0.82 g | N1CC(CC1)O | C4H9NO
reactant | potassium carbonate | 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{3-[2-(1-benzothiophen-5-yl)ethoxy]propyl}-3-pyrrolidinol | 0.78 g | S1C=CC2=C1C=CC(=C2)CCOCCCN2CC(CC2)O | C17H23NO2S
